US04528382
N-Methyl 4-Chlorobenzimidoyl Chloride
N-Methyl 4-chlorobenzamide (42.6 g, 251 mmole) and thionyl chloride (153.3 g, 1.28 mole) were reacted as in Example I to yield 39.3 g (83.4%) of the title compound, b.p. 125° C. (15 mm Hg).

reactant | N-Methyl 4-chlorobenzamide | 251 mmole, 42.6 g | CNC(C1=CC=C(C=C1)Cl)=O | C8H8ClNO
reactant | thionyl chloride | 1.28 mole, 153.3 g | S(=O)(Cl)Cl | Cl2OS
product | N-Methyl 4-Chlorobenzimidoyl Chloride | 39.3 g, 83.4% | CN=C(C1=CC=C(C=C1)Cl)Cl | C8H7Cl2N
